US04788210
starting from 3,5-di(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole and methyl iodide there is obtained 1-methyl-3,5-di(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole, m.p. 108°-111° C.;

reactant | 3,5-di(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | FC(C1=C(C=CC=C1)C1=NNC(=N1)C1=C(C=CC=C1)C(F)(F)F)(F)F | C16H9F6N3
reactant | methyl iodide | CI | CH3I
product | 1-methyl-3,5-di(o-trifluoromethyl-phenyl)-1H-1,2,4-triazole | CN1N=C(N=C1C1=C(C=CC=C1)C(F)(F)F)C1=C(C=CC=C1)C(F)(F)F | C17H11F6N3
